US05703246
Trans-2-(4-Methoxyphenyl)-3-phenyl-1-(4-methylphenylsulphonyl)aziridine
To a stirred solution of dimethylsulphide (7 μl, 0.1 mmol), rhodium (II) acetate (2 mg, 0.005 mmol) and N-(4-methoxybenzylidene)toluene-p-sulphonamide (144 mg, 0.5 mmol) in dichloromethane (2 ml) was added phenyldiazomethane (prepared as in Example 36; 8.96 ml of a 0.067M solution in t-butylmethylether) over a period of 12 hours. Upon completion of the addition the solvent was removed in vacuo and the residue was chromatographed using silica gel eluting with 15:85 ethyl acetate:petrol to give the title compound (96 mg, 51%). δH (CDCl3) 7.62(2H), 6.75-7.45(11H,m), 4.35(1H,d,J=6 Hz), 4.18(1H,d,J=6 Hz), 3.62(3H,s), 2.35(3H,s)ppm.

reactant | dimethylsulphide | 0.1 mmol, 7 μl | CSC | C2H6S
reactant | N-(4-methoxybenzylidene)toluene-p-sulphonamide | 0.5 mmol, 144 mg | COC1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C15H15NO3S
reactant | phenyldiazomethane | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
catalyst | rhodium (II) acetate | 0.005 mmol, 2 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | Trans-2-(4-Methoxyphenyl)-3-phenyl-1-(4-methylphenylsulphonyl)aziridine | 96 mg, 51% | COC1=CC=C(C=C1)[C@@H]1N([C@H]1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C22H21NO3S
